US08293911B2
Step B: N-[2,6-Dimethyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-3,3-dimethyl butanamide
Bis(dibenzylidineacetone)palladium (390 mg, 0.68 mmol) and (2′-dicyclohexyl phosphanyl-biphenyl-2-yl)-dimethylamine (800 mg, 2.0 mmol) were added to dry toluene (150 mL purged with argon) and stirred for 30 minutes under argon. Potassium tert-butoxide (4.75 mg, 42.3 mmol), 6-Trifluoromethyl-1,2,3,4-tetrahydro-isoquinoline hydrochloride salt (4.82 g, 20.3 mmol) and N-(4-bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butanamide (5 g, 16.8 mmol) were then added, and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was then cooled to room temperature and recrystallized from toluene to afford the title compound as a solid. (5.55 g, 79%).

reactant | Potassium tert-butoxide | 42.3 mmol, 4.75 mg | CC(C)([O-])C.[K+]
reactant | 6-Trifluoromethyl-1,2,3,4-tetrahydro-isoquinoline hydrochloride salt | 20.3 mmol, 4.82 g | Cl.FC(C=1C=C2CCNCC2=CC1)(F)F
reactant | N-(4-bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butanamide | 16.8 mmol, 5 g | BrC1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C14H20BrNO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2,6-Dimethyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-3,3-dimethyl butanamide | CC1=C(C(=CC(=C1)N1CC2=CC=C(C=C2CC1)C(F)(F)F)C)NC(CC(C)(C)C)=O | C24H29F3N2O
